US08309580B2
(4) cyclohexyl[5-(4-fluoro-2-methylphenyl)-2-methyl-3-furyl]methanol
An operation similar to that in Example 3 (2) was performed using 5-(4-fluoro-2-methylphenyl)-2-methyl-3-furaldehyde (2.6 g) and 1N cyclohexylmagnesium bromide-tetrahydrofuran solution (18 mL) to give the title compound (2.6 g, 72%) as an oil.

reactant | 5-(4-fluoro-2-methylphenyl)-2-methyl-3-furaldehyde | 2.6 g | FC1=CC(=C(C=C1)C1=CC(=C(O1)C)C=O)C | C13H11FO2
reactant | cyclohexylmagnesium bromide tetrahydrofuran | 1N, 18 mL | C1(CCCCC1)[Mg]Br.O1CCCC1
product | cyclohexyl[5-(4-fluoro-2-methylphenyl)-2-methyl-3-furyl]methanol | 2.6 g, 72% | C1(CCCCC1)C(O)C1=C(OC(=C1)C1=C(C=C(C=C1)F)C)C | C19H23FO2
